US04814454
A. 6-Iodo-2-methoxynaphthalene
To a solution of 1.00 g (4.22 mmol, Aldrich) of 6-bromo-2-methoxynaphthalene in 10 ml of dry THF at -78° was added dropwise 4.5 ml (1.4M in pentane, 6.3 mmol, Aldrich) of t-butyllithium solution over 10 minutes. The reaction mixture was stirred at -78° for 30 minutes then at 0° for 15 minutes. The resulting yellow solution was re-cooled to 31 78° then 1.20 g (4.72 mmol, Aldrich) of iodine was added in one portion. The reaction mixture was warmed to room temperature, stirred for 1 hour then added to 50 ml of H2O and extracted with 50 ml of ethyl acetate. The organic extract was washed with an additional 50 ml of H2O, dried (MgSO4) and concentrated in vacuo to give a solid. The crude solid was recrystallized (EtOAc/petroleum ether) to afford 805 mg (67%) of title compound as pale yellow flakes, m.p. 142°-143°.

reactant | 6-bromo-2-methoxynaphthalene | 4.22 mmol, 1.00 g | BrC=1C=C2C=CC(=CC2=CC1)OC | C11H9BrO
reactant | t-butyllithium | 6.3 mmol, 1.4M, 4.5 ml | C(C)(C)(C)[Li]
reactant | iodine | 4.72 mmol, 1.20 g | II | I2
reactant | H2O | 50 ml | O | H2O
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 6-Iodo-2-methoxynaphthalene | 805 mg, 67% | IC=1C=C2C=CC(=CC2=CC1)OC | C11H9IO
